US06399641B1
(RS)-2-Methoxy-9H-xanthene-9-carboxylic acid (2-ethyl-2H-tetrazol-5-yl)-amide
The title compound, white solid, m.p. 208-210° C. (dec.) and MS: (pos. ions): m/e=352.3 (M++H) was prepared in accordance with the general method of example 1 from 5-amino-2-ethyl-2H-tetrazole and (RS)-2-methoxy-9H-xanthene-9-carbonyl chloride.

reactant | 5-amino-2-ethyl-2H-tetrazole | NC=1N=NN(N1)CC | C3H7N5
reactant | (RS)-2-methoxy-9H-xanthene-9-carbonyl chloride | COC1=CC=2C(C3=CC=CC=C3OC2C=C1)C(=O)Cl | C15H11ClO3
product | (RS)-2-Methoxy-9H-xanthene-9-carboxylic acid (2-ethyl-2H-tetrazol-5-yl)-amide | C(C)N1N=C(N=N1)NC(=O)C1C2=CC=CC=C2OC=2C=CC(=CC12)OC | C18H17N5O3
